US05179110
A solution of 20 g of 3-amino-3-(3-pyridinyl)-2-propenenitrile [J. Med. Chem., 18, 441 (1975)] in 100 ml of pyridine and 14 ml of triethylamine was saturated with hydrogen sulfide and set aside under nitrogen at room temperature for 28 days. The solution was kept saturated by passing hydrogen sulfide into the reaction mixture at intervals during this time. After evaporation the crude product was purified by chromatography and crystallization from ethyl acetate to give 3.65 g of 3-amino-3-(3-pyridinyl)-2-propenethioamide, which was suspended in 80 ml of diethyl ether together with 5.21 g of potassium carbonate. A solution of 5.21 g of iodine in 80 ml of diethyl ether was added dropwise in 10 min to this suspension, keeping the temperature at 3±2° C. After 45 min the reaction mixture was diluted with brine and extracted with dichloromethane. The extract was washed, dried, and evaporated to give 2.19 g of 3-(3-pyridinyl)-5-isothiazolamine.

reactant | 3-amino-3-(3-pyridinyl)-2-propenenitrile | 20 g | NC(=CC#N)C=1C=NC=CC1 | C8H7N3
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
product | 3-amino-3-(3-pyridinyl)-2-propenethioamide | 3.65 g | NC(=CC(N)=S)C=1C=NC=CC1 | C8H9N3S
